********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Dec 22, 2014
*ECN S14-2498, Rev. A
*File Name: SQ2348ES_PS.txt and SQ2348ES_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SQ2348ES D G S 
M1 3 GX S S NMOS W= 1017308u L= 0.3u 
M2 S GX S D PMOS W= 1017308u L= 0.15u 
R1 D 3 1.727e-02 TC=4.288e-03,9.511e-06
CGS GX S 1.005e-10 
CGD GX D 1.454e-11 
RG G GY 1m 
RTCV 100 S 1e6 TC=1.082e-04,3.468e-07
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 1017308u 
**************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 3e-8 
+ RS = 0 KP = 1.372e-05 NSUB = 3.200e+17 
+ KAPPA = 1.546e-01 NFS = 1.000e+12 
+ LD = 0 IS = 0 TPG = 1    )
*************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 3e-8 
+NSUB = 6.310e+16 IS = 0 TPG = -1    )
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 4.719e-09 T_measured = 25 BV = 31
+RS = 1.073e-02 N = 1.019e+00 IS = 6.496e-13 
+EG = 1.202e+00 XTI = -5.261e-01 TRS1 = 3.211e-03
+CJO = 2.573e-10 VJ = 7.104e-01 M = 4.782e-01 ) 
.ENDS 
